US08629168B2
[4-(2-{4-[4-(2-Methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenylamino}-benzooxazol-7-yl)-2-methyl-phenyl]-morpholin-4-yl-methanone
The title compound is prepared from (7-bromo-benzooxazol-2-yl)-{4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenyl}-amine and [2-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxa-borolan-2-yl)-phenyl]-morpholin-4-yl-methanone using methodology described in the preparation of example 65. The title compound is obtained as an off-white foam. Rt=2.00 min (Waters Symmetry C8, 2.1×50 mm, detection 210-250 nM, 5% to 100% CH3CN in H2O in 2 min+0.05% TFA, flow rate 1.0 ml/min); MS: 570 (M+1)+.

reactant | (7-bromo-benzooxazol-2-yl)-{4-[4-(2-methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenyl}-amine | BrC1=CC=CC=2N=C(OC21)NC2=CC(=C(C=C2)N2CCN(CC2)CCOC)C | C21H25BrN4O2
reactant | [2-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxa-borolan-2-yl)-phenyl]-morpholin-4-yl-methanone | CC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(=O)N1CCOCC1 | C18H26BNO4
product | [4-(2-{4-[4-(2-Methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenylamino}-benzooxazol-7-yl)-2-methyl-phenyl]-morpholin-4-yl-methanone | COCCN1CCN(CC1)C1=C(C=C(C=C1)NC=1OC2=C(N1)C=CC=C2C2=CC(=C(C=C2)C(=O)N2CCOCC2)C)C | C33H39N5O4
